US05250678
A stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg, 0.19 mmol, 1 eq) and Cu(OAc)2 (6.0 mg, 0.033 mmol, 0.17 eq) in CH2Cl2 (2.5 ml) in a round bottom flask equipped with a magnetic stir-bar and reflux condenser was heated to 40° C. then treated with tri(4-phenoxyphenyl)bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.075 mL, 1.31 mmol, 6.9 eq) to a suspension of tri(4-phenoxyphenyl)bismuth carbonate (225 mg, 0.29 mmol, 1.5 eq) in CH2Cl2 (2.5 ml)]. After 18 hours TLC analysis showed the reaction to be incomplete and additional tri(4-phenoxyphenyl) bismuth diacetate (0.10 mmol) was added. The reaction mixture was stirred with heating for 5 hours then cooled, diluted with saturated aqueous NaHCO3, and extracted 2 times with CH2Cl2. The extracts were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC on silica gel (2:1 hexanes/acetone) to give 66 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-penoxyphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl- 11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR, 13C NMR, and mass spectral analysis were consistent with the desired structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.19 mmol, 150 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | tri(4-phenoxyphenyl)bismuth diacetate | C(C)(=O)O.C(C)(=O)O.O(C1=CC=CC=C1)C1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1
reactant | acetic acid | 1.31 mmol, 0.075 mL, 6.9 eq | C(C)(=O)O | C2H4O2
reactant | tri(4-phenoxyphenyl)bismuth carbonate | 0.29 mmol, 225 mg, 1.5 eq | C(O)(O)=O.O(C1=CC=CC=C1)C1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1
reactant | tri(4-phenoxyphenyl) bismuth diacetate | 0.10 mmol | C(C)(=O)O.C(C)(=O)O.O(C1=CC=CC=C1)C1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.033 mmol, 6.0 mg, 0.17 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-penoxyphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl- 11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 66 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C(C=C2)OC2=CC=CC=C2)OC)C)C)O)=O | C55H77NO13
